US08859602B2
b) 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(4-morpholin-4-ylmethyl-tetrahydro-pyran-4-yl)-phenyl]-amide
A mixture of 4-cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(4-formyl-tetrahydro-pyran-4-yl)-phenyl]-amide (as prepared in the previous step, 30.5 mg, 0.0754 mmol), morpholine (14 μL, 0.15 mmol) and sodium borohydride (6.0 mg, 0.16 mmol) in 2 mL of 1:1 DCM/THF was stirred at RT for 3 h. The mixture was then treated with saturated NaHCO3 aqueous solution (10 mL) and extracted with EtOAc (3×10 mL). The combined organic layers were washed with H2O (10 mL) and brine (10 mL). After drying over Na2SO4 and concentrating in vacuo, the residue was purified by silica gel chromatography (10-30% EtOAc/DCM) to afford the title compound (28 mg, 77%) as a white solid. 1H-NMR (CDCl3; 400 MHz): δ 12.61 (s, 1H), 9.66 (s, 1H), 8.31 (d, 1H, J=8.6 Hz), 7.76 (s, 1H), 7.28 (dd, 1H, J=8.6, 2.3 Hz), 7.17 (d, 1H, J=2.3 Hz), 5.86 (m, 1H), 3.79 (m, 2H), 3.59 (m, 2H), 3.53 (m, 4H), 2.45 (s, 2H), 2.29 (m, 4H), 2.13-2.21 (m, 6H), 1.77-1.98 (m, 6H). Mass spectrum (ESI, m/z): Calcd. for C27H33N5O3, 476.3 (M+H). found 476.2.

reactant | 4-cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(4-formyl-tetrahydro-pyran-4-yl)-phenyl]-amide | C1(=CCCCC1)C1=C(C=CC(=C1)C1(CCOCC1)C=O)NC(=O)C=1NC=C(N1)C#N | C23H24N4O3
reactant | morpholine | 0.15 mmol, 14 μL | N1CCOCC1 | C4H9NO
reactant | sodium borohydride | 0.16 mmol, 6.0 mg | [BH4-].[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DCM THF | 2 mL | C(Cl)Cl.C1CCOC1
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(4-morpholin-4-ylmethyl-tetrahydro-pyran-4-yl)-phenyl]-amide | 28 mg, 77% | C1(=CCCCC1)C1=C(C=CC(=C1)C1(CCOCC1)CN1CCOCC1)NC(=O)C=1NC=C(N1)C#N | C27H33N5O3
